** sch_path: /foss/designs/test/testbench/bandgap_res_temp_tb.sch
**.subckt bandgap_res_temp_tb
x1 vp bias v_ref gd bandgap_res
VGD gd 0 0
VP vp gd xvp
.save i(vp)
VSUB gd sub! 0
Vibias net1 bias 0
.save i(vibias)
I0 vp net1 'xibias'
C1 v_ref gd 1p
**** begin user architecture code


.lib cornerMOSlv.lib mos_tt
.lib cornerMOShv.lib mos_tt
.lib cornerRES.lib res_typ
.lib cornerDIO.lib dio_tt
.lib cornerPNP.lib typ

.param xvp=3.3
.param xibias=10u

.param xtemp=25

.probe alli
.probe v(x1)
.probe isub(x1)
.save all

.temp 'xtemp'
.dc temp -50 125 0.1


**** end user architecture code
**.ends

* expanding   symbol:  /foss/designs/master/bandgap_res/bandgap_res.sym # of pins=4
** sym_path: /foss/designs/master/bandgap_res/bandgap_res.sym
** sch_path: /foss/designs/master/bandgap_res/bandgap_res.sch
.subckt bandgap_res vp ibias vref gd
*.ipin gd
*.ipin vp
*.ipin ibias
*.opin vref
XQ1 gd gd vd pnpMPA a=4e-12 p=8e-06
XQ2 gd gd net1 pnpMPA a=4e-12 p=8e-06 m=8
x1 vp vrd vd vg ibias gd opamp_folded
XM2 net2 vg vp vp sg13_hv_pmos w=3.6u l=0.9u ng=1 m=10
XM1 net3 vg vp vp sg13_hv_pmos w=3.6u l=0.9u ng=1 m=10
Vid net3 vd 0
.save i(vid)
Vidr net2 vrd 0
.save i(vidr)
Viref vp net4 0
.save i(viref)
XM3 vref vg net4 vp sg13_hv_pmos w=3.6u l=0.9u ng=1 m=10
XR2 vrd gd sub! rppd w=2e-6 l=88e-6 m=1 b=0
XR3 vd gd sub! rppd w=2e-6 l=88e-6 m=1 b=0
XR4 vref gd sub! rppd w=2e-6 l=88e-6 m=1 b=0
XR5 vrd net1 sub! rppd w=4.7e-6 l=30e-6 m=1 b=0
.ends


* expanding   symbol:  /foss/designs/master/bandgap_res/opamp_folded.sym # of pins=6
** sym_path: /foss/designs/master/bandgap_res/opamp_folded.sym
** sch_path: /foss/designs/master/bandgap_res/opamp_folded.sch
.subckt opamp_folded vp inp inm out bias gd
*.ipin bias
*.opin out
*.ipin vp
*.ipin inp
*.ipin inm
*.ipin gd
XM1 inp_fold inp pair_com gd sg13_hv_nmos w=2.4u l=0.9u ng=1 m=10
XM2 inm_fold inm pair_com gd sg13_hv_nmos w=2.4u l=0.9u ng=1 m=10
XM3 tele_p tele_g gd gd sg13_hv_nmos w=1.2u l=0.9u ng=1 m=2
XM4 tele_m tele_g gd gd sg13_hv_nmos w=1.2u l=0.9u ng=1 m=2
XM5 tele_g bias2 tele_p gd sg13_hv_nmos w=1.2u l=0.9u ng=1 m=2
XM6 out bias2 tele_m gd sg13_hv_nmos w=1.2u l=0.9u ng=1 m=2
XM7 tele_g bias3 inp_fold vp sg13_hv_pmos w=3.6u l=0.9u ng=1 m=2
XM8 out bias3 inm_fold vp sg13_hv_pmos w=3.6u l=0.9u ng=1 m=2
XM9 inp_fold bias4 vp vp sg13_hv_pmos w=3.6u l=0.9u ng=1 m=4
XM10 inm_fold bias4 vp vp sg13_hv_pmos w=3.6u l=0.9u ng=1 m=4
XM11 pair_com bias gd gd sg13_hv_nmos w=1.2u l=0.9u ng=1 m=4
XM12 bias bias gd gd sg13_hv_nmos w=1.2u l=0.9u ng=1 m=2
XM13 bias4 bias gd gd sg13_hv_nmos w=1.2u l=0.9u ng=1 m=2
XM14 bias4 bias4 vp vp sg13_hv_pmos w=3.6u l=0.9u ng=1 m=2
XM15 bias3 bias gd gd sg13_hv_nmos w=1.2u l=0.9u ng=1 m=2
XM16 bias3 bias3 net2 vp sg13_hv_pmos w=3.6u l=0.9u ng=1
XM17 net2 bias3 vp vp sg13_hv_pmos w=3.6u l=0.9u ng=1
XM18 net1 bias2 gd gd sg13_hv_nmos w=1.2u l=0.9u ng=1
XM19 bias2 bias2 net1 gd sg13_hv_nmos w=1.2u l=0.9u ng=1
XM20 bias2 bias4 vp vp sg13_hv_pmos w=3.6u l=0.9u ng=1 m=4
XM21 pair_com gd gd gd sg13_hv_nmos w=2.4u l=0.9u ng=1 m=2
XM22 bias2 gd gd gd sg13_hv_nmos w=1.2u l=0.9u ng=1
XM23 gd gd gd gd sg13_hv_nmos w=1.2u l=0.9u ng=1
XM24 vp vp vp vp sg13_hv_pmos w=3.6u l=0.9u ng=1
XM25 vp vp bias3 vp sg13_hv_pmos w=3.6u l=0.9u ng=1
.ends

.GLOBAL sub!
.end
