** sch_path: /foss/designs/test/testbench/ip_bandgap_delta_v_tb.sch
**.subckt ip_bandgap_delta_v_tb
Ibias vp ibias_ref xibias
Rref ibias_ref gd 1
V1 gd 0 0
V2 vp gd xvp
XQ1 gd gd vd1 pnpMPA a=4e-12 p=8e-06
XQ2 gd gd vd2 pnpMPA a=4e-12 p=8e-06 m=8
G1 vp vd1 ibias_ref gd 1
G2 vp vd2 ibias_ref gd 1
**** begin user architecture code


.lib cornerPNP.lib typ

.param xvp=3.3
.param xibias=100u

.param xtemp=25

.save all

.temp 'xtemp'
.dc Ibias 5u 200u 0.25u


**** end user architecture code
**.ends
.end
